US06057369
A mixture of 4-phenylbut-2-enoic acid (2 g, 12.33 mmol) prepared as in Example 6, Step B, 3,4-dimethoxybenzenethiol (2.1 mL, 14.79 mmol, 1.2 eq), and piperidine (0.4 mL (3.7 mmol, 0.3 eq) is heated at 110° C. in a bomb for 18 hours. The reaction is partitioned between ethyl ether and 1 N HCl. The organic layer is dried over anhydrous MgSO4 and concentrated in vacuo. The product is purified by flash silica gel chromatography to afford 3-(3,4-dimethoxyphenylsulfanyl)-4-phenylbutanoic acid as a yellow oil. (4.1 g, 100%): 1H-NMR (300 MHz, CDCl3) δ (TMS) 2.54(d, 0.5×2H), 2.56(d, 0.5×2H), 2.83(d, 0.5×2H), 2.98(d, 0.5×2H), 3.56(m, 1H), 3.85(s, 3H), 3.88(s, 3H), 6.8(d, 1H), 6.97(d, 1H), 7.05(d, 0.5×1H), 7.09(d, 0.5×1H), 7.15-7.32(m, 5H).

reactant | 4-phenylbut-2-enoic acid | 12.33 mmol, 2 g | C1(=CC=CC=C1)CC=CC(=O)O | C10H10O2
reactant | 3,4-dimethoxybenzenethiol | 14.79 mmol, 2.1 mL, 1.2 eq | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-(3,4-dimethoxyphenylsulfanyl)-4-phenylbutanoic acid | COC=1C=C(C=CC1OC)SC(CC(=O)O)CC1=CC=CC=C1 | C18H20O4S
